US08222200B2
Isopropyl-methyl-carbamic acid 2-ethyl-hexyl ester
A solution of isopropylamine (2.95 g, 50 mmol, 1 equiv.) was added at RT to a suspension of NaH (55% in mineral oil, 2.40 g, 55 mmol, 1.1 equiv.) in THF (25 ml). The mixture was warmed to 40° C. for 18 h, then chloroformic acid 2-ethyl-hexyl ester in THF (25 ml) was added dropwise over 30 min. After 4 h further stirring a suspension of NaH (55% in mineral oil, 2.40 g, 55 mmol, 1.1 equiv.) in THF (25 ml) was added followed by a solution of dimethyl sulfate (5.2 ml, 55 mmol, 1.1 equiv.) in THF (20 ml). The mixture was heated to 70° C. for 16 h, then hydrolysed by addition of water (50 ml). The hydrolysed mixture was further heated to 70° C. for 1.5 h in order to destroy excess dimethyl sulfate, then diluted with MTBE and worked up as described in Example 1. The crude product was distilled at 0.06 mbar/94-95° C. to yield 8.8 g (77%) of product.

reactant | isopropylamine | 50 mmol, 2.95 g, 1 equiv. | C(C)(C)N | C3H9N
reactant | NaH | 55 mmol, 2.40 g, 1.1 equiv. | [H-].[Na+]
reactant | chloroformic acid 2-ethyl-hexyl ester | C(C)C(COC(=O)Cl)CCCC | C9H17ClO2
reactant | NaH | 55 mmol, 2.40 g, 1.1 equiv. | [H-].[Na+]
reactant | dimethyl sulfate | 55 mmol, 5.2 ml, 1.1 equiv. | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Isopropyl-methyl-carbamic acid 2-ethyl-hexyl ester | 8.8 g, 77% | C(C)C(COC(N(C)C(C)C)=O)CCCC | C13H27NO2
